US06900215B2
To a cooled (−78° C.) suspension of 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (1.02 mg, 5.8 mmol) in dichloromethane (25 ml) was added (diethylamino)sulfur trifluoride (1.22 mg, 7.5 mmol) dropwise over 5 min. The mixture was stirred at −78° C. for 40 min then quenched with methanol (1 ml). The mixture was warmed to ambient temperature, made basic with saturated sodium hydrogencarbonate solution (25 ml) and extracted with dichloromethane (2×25 ml). The combined organics were washed with brine (50 ml), dried over anhydrous sodium sulfate and evaporated to dryness. Purification of this material by chromatography on silica eluting with dichloromethane (containing 0.5% conc. ammonia) on a gradient of methanol (1-3%) gave 7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine (180 mg, 17%) as a yellow solid: δH (360 MHz, CDCl3) 1.78 (6H, d, J 22), 7.21 (1H, dd, J 7 and 1), 7.54 (1H, d, J 1), 7.79 (1H, d, J 1), 8.45 (1H, d, J 7).

reactant | 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 5.8 mmol, 1.02 mg | N=1C=CN2C1N=C(C=C2)C(C)(C)O | C9H11N3O
reactant | (diethylamino)sulfur trifluoride | 7.5 mmol, 1.22 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-(1-fluoro-1-methylethyl)imidazo[1,2-α]pyrimidine | 180 mg, 17% | FC(C)(C)C1=NC=2N(C=C1)C=CN2 | C9H10FN3
